US05538976
5-[N-(4-Cyanophenyl)-N-(3,4-difluorobenzyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 3,4-difluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 5-[N-(4-Cyanophenyl)-N-(3,4-difluorobenzyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC1=CC(=C(C=C1)F)F)C=1C=NC=NC1 | C18H12F2N4
